US04212813
There was provided a 300 ml flask which was equipped with an agitator and a thermometer and provided with a gas feed port and a gas exhaust port attached with a condenser. The flask was charged with 22.3 g of 5,6-dichloroacenaphthene, 0.6 g of cobalt acetate tetrahydrate, 0.2 g of manganese acetate tetrahydrate, 0.2 g of NaBr, 10 ml of acetic acid, 90 ml of chlorobenzene, and 17 ml of acetic anhydride. The reaction system was heated to 65° C., into which air was blown for oxidation at a rate of 50 ml/min. The reaction was continued for 20 hours, during which the system was gradually heated up to 95° C. After completion of the reaction, the acetic acid was removed by distillation together with the chlorobenzene. To the remaining reaction mixture were added 50 ml of chlorobenzene and 400 ml of water dissolving therein 27 g of KOH, into which 32 ml of a sodium hypochlorite solution (13.6%) was dropped at 70°-100° C. The chlorobenzene was removed from the reaction solution, followed by treating with active carbon and filtering. The filtrate was treated with an acid to permit precipitation and the precipitate was filtered, washed with water and dried to obtain 23.5 g of 4,5-dichloronaphthalic anhydride. The yield was 88.0%.

reactant | 5,6-dichloroacenaphthene | 22.3 g | ClC1=CC=C2CCC=3C=CC(=C1C32)Cl | C12H8Cl2
reactant | acetic anhydride | 17 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOH | 27 g | [OH-].[K+]
reactant | sodium hypochlorite | 32 ml | Cl[O-].[Na+]
catalyst | cobalt acetate tetrahydrate | 0.6 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese acetate tetrahydrate | 0.2 g | O.O.O.O.C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
catalyst | NaBr | 0.2 g | [Na+].[Br-]
solvent | water | 400 ml | O | H2O
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 90 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4,5-dichloronaphthalic anhydride | 23.5 g, yield was 88.0% | ClC1=CC=C(C2=CC=CC(=C12)Cl)C(=O)OC(=O)C1=CC=C(C2=C(C=CC=C12)Cl)Cl | C22H10Cl4O3
